US07358376B2
3-[(Aminocarbonyl)amino]-5-(3-thienyl)-2-thiophenecarboxamide
Prepared by the method of Example 1 from 3-amino-5-(3-thienyl)-2-thiophenecarboxamide and trimethylsilylisocyanate.

reactant | 3-amino-5-(3-thienyl)-2-thiophenecarboxamide | NC1=C(SC(=C1)C1=CSC=C1)C(=O)N | C9H8N2OS2
reactant | trimethylsilylisocyanate | C[Si](C)(C)N=C=O | C4H9NOSi
product | 3-[(Aminocarbonyl)amino]-5-(3-thienyl)-2-thiophenecarboxamide | NC(=O)NC1=C(SC(=C1)C1=CSC=C1)C(=O)N | C10H9N3O2S2
